US04283396
A mixture of 6.86 g of the anti isomer of ethyl 2-(2-tritylamino-4-thiazolyl)-2-hydroxyiminoacetate [Step A of Example 14[, 3.51 g of potassium carbonate, 15 ml of dimethylformamide and 7 ml of allyl iodide was stirred under an inert atmosphere at room temperature for 5 hours and then 250 ml of water and 150 ml of ethyl acetate were added thereto with stirring. The mixture was decanted and the aqueous phase was washed and reextracted with ethyl acetate. The extracts were dried, vacuum filtered and evaporated to dryness. The residue was taken up in ethanol and crystallization was started. The mixture was cooled in an ice bath with stirring for half an hour and was then vacuum filtered. The crystals were rinsed with ethanol to obtain 4.72 g of the anti isomer of ethyl 2-(2-tritylamino-4-thiazolyl)-2-(2-propenyloxyimino)-acetate. 215 mg of the product were dissolved in 2 ml of ethanol and 2 ml of methylene chloride and the mixture was filtered. The filtrate was concentrated and diluted with ethanol. Crystallization was effected in an ice bath and the mixture was vacuum filtered. The crystals were rinsed with ethanol and dried to obtain 70 mg of the pure product which melted at 90° C. (pasty) and 160° C. (pure).

reactant | ethyl 2-(2-tritylamino-4-thiazolyl)-2-hydroxyiminoacetate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)OCC)=NO | C26H23N3O3S
reactant | potassium carbonate | 3.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | allyl iodide | 7 ml | C(C=C)I | C3H5I
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 250 ml | O | H2O
product | ethyl 2-(2-tritylamino-4-thiazolyl)-2-(2-propenyloxyimino)-acetate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)OCC)=NOCC=C | C29H27N3O3S
